US08334287B2
4-[4-(3-fluoro-phenylethynyl)-2,5-dimethyl-imidazol-1-yl]-1-methyl-1H-pyridin-2-one
The title compound, brown waxy solid, MS: m/e=322.1 (M+H+), was prepared in accordance with the general method of example 1c from 4-(4-iodo-2,5-dimethyl-imidazol-1-yl)-1-methyl-1H-pyridin-2-one and 1-Ethynyl-3-fluoro-benzene.

reactant | 4-(4-iodo-2,5-dimethyl-imidazol-1-yl)-1-methyl-1H-pyridin-2-one | IC=1N=C(N(C1C)C1=CC(N(C=C1)C)=O)C | C11H12IN3O
reactant | 1-Ethynyl-3-fluoro-benzene | C(#C)C1=CC(=CC=C1)F | C8H5F
product | 4-[4-(3-fluoro-phenylethynyl)-2,5-dimethyl-imidazol-1-yl]-1-methyl-1H-pyridin-2-one | FC=1C=C(C=CC1)C#CC=1N=C(N(C1C)C1=CC(N(C=C1)C)=O)C | C19H16FN3O
